US09290472B2
Trifluoroacetic anhydride (5.05 g) was added dropwise to an ice-cooled solution of 3-fluorobenzylamine (2.5 g) and triethylamine (2.22 g) in ethyl acetate (75 mL) while maintaining the temperature below 10° C. The mixture was stirred at 0-5° C. for 1 hour then allowed to warm to room temperature and stirred for 2 hours. Water was added and the layers were separated. The organic layer was washed with water, dried (MgSO4) and filtered. The filtrate was evaporated to dryness to give 3-fluoro-N-trifluoroacetylbenzylamine (4.58 g) as an oil which crystallised on standing to a white solid.

reactant | Trifluoroacetic anhydride | 5.05 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 3-fluorobenzylamine | 2.5 g | FC=1C=C(CN)C=CC1 | C7H8FN
reactant | triethylamine | 2.22 g | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
product | 3-fluoro-N-trifluoroacetylbenzylamine | 4.58 g | FC=1C=C(CNC(C(F)(F)F)=O)C=CC1 | C9H7F4NO
